US04107175
B. 5-chloro-N-methyl-N-phenyl-1,3-benzodithiol-2-iminium iodide
A solution of 5-chloro-N-phenyl-1,3-benzodithiol-2-imine (6.0g) and methyl iodide (50 ml, excess) in 200 ml of dry benzene is heated at 50° C for 72 hours. The reaction mixture is filtered and the resultant solid is washed several times with pentane. The solid product is recrystallized from n-amyl alcohol to yield 4.0g of the title compound, melting point 205°-207° C.

reactant | 5-chloro-N-phenyl-1,3-benzodithiol-2-imine | 6.0g | ClC1=CC2=C(SC(S2)=NC2=CC=CC=C2)C=C1 | C13H8ClNS2
reactant | methyl iodide | 50 ml | CI | CH3I
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 5-chloro-N-methyl-N-phenyl-1,3-benzodithiol-2-iminium iodide | 4.0g | [I-].ClC1=CC2=C(SC(S2)=[N+](C2=CC=CC=C2)C)C=C1 | InChI=1S/C14H11ClNS2.HI/c1-16(11-5-3-2-4-6-11)14-17-12-8-7-10(15)9-13(12)18-14;/h2-9H,1H3;1H/q+1;/p-1
